US06825170B2
Step C: 2-[4-(Tetrahydro-2,5-dimethoxy-3-furanyl)phenyl] pyrimidine
A mixture of 2,5-dihydro-2,5-dimethoxy-3-[4-(pyrimidin-2-yl)phenyl]furan (70 mg, 0.25 mmol), 10% Pd/C (20 mg), and ammonium formate (46 mg, 0.75 mmol) in methanol (1 mL) was stirred overnight. The reaction mixture was filtered through a fritted funnel, and concentrated in vacuo. The crude product was partitioned between ethyl acetate and sat. aq. NaHCO3, the organic layer dried with Na2SO4, and concentrated in vacuo to give 60 mg (85%) of the title compound, which was used without further purification. MS 287 (M+H)+.

reactant | 2,5-dihydro-2,5-dimethoxy-3-[4-(pyrimidin-2-yl)phenyl]furan | 0.25 mmol, 70 mg | COC1OC(C=C1C1=CC=C(C=C1)C1=NC=CC=N1)OC | C16H16N2O3
reactant | ammonium formate | 0.75 mmol, 46 mg | C(=O)[O-].[NH4+]
solvent | methanol | 1 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 2-[4-(Tetrahydro-2,5-dimethoxy-3-furanyl)phenyl] pyrimidine | 60 mg, 85% | COC1OC(CC1C1=CC=C(C=C1)C1=NC=CC=N1)OC | C16H18N2O3
